US04857493
In a 100 ml flask commercial vinylbenzyl chloride (3.05 g, 0.020 mol) was mixed with hexadecyldimethylamine (5.4 g, 0.020 mol) without any additional solvent. After addition of 2,6-di-tert-butyl-4-methylphenol (100 mg, 0.45 mmol) the mixture was heated overnight at 50° C. The solid product which formed was washed several times with dry ether, dried under vacuum at room temperature, and recrystallized from acetone/ether to give 6.3 g (75%) of 4-styrylmethyl (hexadecyl)dimethylammonium chloride. 1H NMR (CDCl3 /Me4Si): 0.88 (s, 3H), 1.24 (br s, 26H ), 1.78 (s, 2H), 3.30 (s, 6H), 3.53 (s, 2H), 5.08 (s, 2H), 5.32 (d, J=10.8 Hz, 1H), 5.84(d, J=18 Hz, 1H), 6.7 m, 1H), 7.51 (m, 4H). IR (KBr); 3020, 2920, 1640 cm-1. The critical micelle concentration (CMC) was 1.28× 10-2M at 25° C. determined conductometrically.

reactant | vinylbenzyl chloride | 0.020 mol, 3.05 g | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | hexadecyldimethylamine | 0.020 mol, 5.4 g | C(CCCCCCCCCCCCCCC)N(C)C | C18H39N
catalyst | 2,6-di-tert-butyl-4-methylphenol | 0.45 mmol, 100 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
product | 4-styrylmethyl (hexadecyl)dimethylammonium chloride | 6.3 g, 75% | [Cl-].C(=CC1=CC=CC=C1)CC(CCC[NH+](C)C)CCCCCCCCCCCC | InChI=1S/C27H47N.ClH/c1-4-5-6-7-8-9-10-11-12-14-19-27(24-18-25-28(2)3)23-17-22-26-20-15-13-16-21-26;/h13,15-17,20-22,27H,4-12,14,18-19,23-25H2,1-3H3;1H
